US07504420B2
To a stirring solution of 243 mg (1.6 mmol) of methyl 5-aminonicotinate in 5 mL of HF-pyridine at 0° C. was added 119 mg (1.72 mmol) of NaNO2. The mixture was stirred at 0° C. for 30 min. and at 50° C. for 1 h. The reaction was quenched by ice and sat. NaHCO3 solution. The aqueous layer was extracted with CHCl3, dried over Na2SO4, filtered, and concentrated. Purification by flash silica gel chromatography (1% MeOH/CHCl3) provided 139 mg of methyl 5-fluoronicotinate as a yellow solid in 56% yield.

reactant | methyl 5-aminonicotinate | 1.6 mmol, 243 mg | NC=1C=NC=C(C(=O)OC)C1 | C7H8N2O2
reactant | NaNO2 | 1.72 mmol, 119 mg | N(=O)[O-].[Na+]
reactant | HF-pyridine | 5 mL | C1=CC=NC=C1.F
product | methyl 5-fluoronicotinate | 139 mg, 56% yield | FC=1C=NC=C(C(=O)OC)C1 | C7H6FNO2
